US09227963B2
3-bromo-2-methyl-N-(tricyclo[3.3.1.13,7]dec-1-yl)benzenesulfonamide
3-Bromo-2-methylbenzene-1-sulfonyl chloride (300 mg) and 1-adamantanamine (185 mg) were dissolved in dichloromethane (4 mL). Diisopropylethylamine (432 mg) was added, and the solution was stirred at room temperature for 16 hours. The solution was diluted with 70% ethyl acetate (hexanes), washed three times with 1 M aqueous HCl, washed with brine, and dried over anhydrous sodium sulfate. After filtration, the solvent was removed to yield the product.

reactant | 3-Bromo-2-methylbenzene-1-sulfonyl chloride | 300 mg | BrC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6BrClO2S
reactant | 1-adamantanamine | 185 mg | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | Diisopropylethylamine | 432 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-2-methyl-N-(tricyclo[3.3.1.13,7]dec-1-yl)benzenesulfonamide | BrC=1C(=C(C=CC1)S(=O)(=O)NC12CC3CC(CC(C1)C3)C2)C | C17H22BrNO2S
